US09056859B2
A solution of 8-bromo-4-(trimethylsilyl)-3,4-dihydro-2H-chromene-4-carbonitrile (9.6 g, 29.45 mmol) in a mixture of conc. HCl/HOAc (50 mL/40 mL) was added SnCl2.H2O (26.57 g, 117.8 mmol) and the miture was refluxed for 48 hours. The reaction solution was concentrated and the residue was partitioned between water and EtOAc. The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated to afford 8-bromo-3,4-dihydro-2H-chromene-4-carboxylic acid. 1H-NMR (300 MHz, CDCl3) δ ppm 7.15˜7.46 (m, 2H), 6.75˜6.92 (m, 1H), 4.24˜4.4 (m, 2H), 3.78˜3.84 (m, 1H), 2.1˜2.39 (m, 2H).

reactant | 8-bromo-4-(trimethylsilyl)-3,4-dihydro-2H-chromene-4-carbonitrile | 29.45 mmol, 9.6 g | BrC=1C=CC=C2C(CCOC12)(C#N)[Si](C)(C)C | C13H16BrNOSi
reactant | SnCl2.H2O | 117.8 mmol, 26.57 g | Cl[Sn]Cl.O
reactant | HCl HOAc | 50 mL | Cl.CC(=O)O
product | 8-bromo-3,4-dihydro-2H-chromene-4-carboxylic acid | BrC=1C=CC=C2C(CCOC12)C(=O)O | C10H9BrO3
